US04619924
Similar procedures employed in Preparation J in reacting 3-(p-methylphenylsulfonyloxy)thiolane with potassium thioacetate by reacting 4-(p-methylphenylsulfonyloxy)thiane and 1.5 equivalents of potassium thioacetate at 80° C. in dimethylformamide to obtain 4-methylcarbonylthiothiane in 69% yield after chromatography on silica gel eluted with 10% ethyl acetate/hexane. The NMR spectrum of a deuterochloroform solution of 4-methylcarbonylthiothiane had peaks at 1.62-2.2 (4H, m); 2.32 (3H, s); 2.5-2.8 (4H, m); and 3.52 (1H, tt, J=9, 3 Hz) ppm.

reactant | 3-(p-methylphenylsulfonyloxy)thiolane | CC1=CC=C(C=C1)S(=O)(=O)OC1CSCC1 | C11H14O3S2
reactant | potassium thioacetate | C(C)(=S)[O-].[K+]
reactant | 4-(p-methylphenylsulfonyloxy)thiane | CC1=CC=C(C=C1)S(=O)(=O)OC1CCSCC1 | C12H16O3S2
reactant | potassium thioacetate | 1.5 equivalents | C(C)(=S)[O-].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-methylcarbonylthiothiane | 69% yield | CC(=O)SC1CCSCC1 | C7H12OS2
